US06825223B2
Ethanol (EtOH) (35 ml), 3-bromopropanoic acid (1.53 g, 10 mmols) and 2-mercaptobenzoxazole (1.51 g, 10mmols) were added in that order to an aqueous (15 ml) solution of potassium hydroxide (KOH) (1.0 g, 17.8 mmols), and heated under reflux for 3 hours. The reaction mixture was concentrated under reduced pressure, water was added to the resulting residue, and this was made acidic (pH=1) with 1N HCl added thereto. The precipitate formed was taken out through filtration, and crystallized in acetone-ether-hexane to obtain 1.3 g (58%) of 3-(benzoxazol-2-ylthio)propanoic acid as colorless crystals.

reactant | 3-bromopropanoic acid | 10 mmols, 1.53 g | BrCCC(=O)O | C3H5BrO2
reactant | 2-mercaptobenzoxazole | 10mmols, 1.51 g | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
reactant | potassium hydroxide | 17.8 mmols, 1.0 g | [OH-].[K+]
solvent | Ethanol | 35 ml | C(C)O | C2H6O
product | 3-(benzoxazol-2-ylthio)propanoic acid | 1.3 g, 58% | O1C(=NC2=C1C=CC=C2)SCCC(=O)O | C10H9NO3S
